US06232290B1
To a solution of 5-(4-pentyloxyphenyl)-1,3,4-thiadiazol-2-yl-amine (20 g) in pyridine (200 ml) was added 4-methoxycarbonylbenzoylchloride (15 g) and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was pulverized with water. The precipitate was collected by filtration and dried to give N-[5-(4-pentyloxyphenyl)-1,3,4-thiadiazol-2-yl]terephthalamic acid methyl ester (30.3 g).

reactant | 5-(4-pentyloxyphenyl)-1,3,4-thiadiazol-2-yl-amine | 20 g | C(CCCC)OC1=CC=C(C=C1)C1=NN=C(S1)N | C13H17N3OS
reactant | 4-methoxycarbonylbenzoylchloride | 15 g | COC(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | water | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(4-pentyloxyphenyl)-1,3,4-thiadiazol-2-yl]terephthalamic acid methyl ester | 30.3 g | COC(C1=CC=C(C(=O)NC=2SC(=NN2)C2=CC=C(C=C2)OCCCCC)C=C1)=O | C22H23N3O4S
